Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:5]([H:6])=[C:7]([H:8])[H:9].[O:3]=[O:4]>>[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-0.0167267754905
[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11],-7.19108076525
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],2.08321453544
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],4.590110757330001
[H:1][O:2][C:3]1([O:4][C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10][H:11],1.18917467235
[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.88163942042
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:6].[O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])([C:5]#[C:6])[O:7][H:8],-3.1953933786900004
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:3][H:4],6.10395264026
[C:1]#[C:2][H:3].[C:4]([C:5]#[C:6])[O:7][H:8]>>[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[O:7][H:8],-3.59425801102
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][H:7],2.18552388902
[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-1.79050357072
[H:1][C:2][O:3][C:4]1=[C:5]([H:6])[C:7]1([H:8])[H:9]>>[H:1][C:2][O:3][C:4][C:7]([C:5][H:6])([H:8])[H:9],5.03322180196
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2],5.33915901796
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3][C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][O:8][C:9]([H:10])([H:11])[H:12],4.06945466208
[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3][C:4][H:5]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-6.29355298
[H:1][C:2]([C:3][H:4])([H:6])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17].[H:5][C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-4.99502206472
[H:8].[O:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7])=[C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11],-5.7806036462
[C:8]([H:9])[O:10][H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-6.88781758347
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.80619497069
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[O:12].[H:13],1.5631294643399998
[H:1][C:2]#[C:3].[O:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-4.10688992447
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9],-1.84776087446
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7]=[C:8][O:9][C:10]([H:11])([H:12])[H:13],-1.12197479027
[C:13]([H:14])[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-8.66938144553
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],0.4007387474989999
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:1][O:2],5.364299058069999
[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.26322927172
[O:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.54687626602
[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:7]#[C:8][H:9]>>[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]#[C:8][H:9],-2.35356852303
